Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
labetalol
 
Attending: ___
 
___ Complaint:
Severe Constipation causing abdominal pain
 
Major Surgical or Invasive Procedure:
Disimpaction in the Operating ___

 
History of Present Illness:
HPI: This is a ___ female who was in her usual state of
health with multiple medical comorbidities until this morning
when she developed rectal pain which has been severe and lasted
all day long.  She has a long-standing history of constipation. 
Her last bowel movement is unknown.  She presented to an outside
hospital (___), and was subsequently transferred here 
with
a diagnosis of stercoral colitis.  Attempts at manual
disimpaction of the rectum have been unsuccessful.  She has 
gross
blood in her stool that has been disimpacted.  She has a
leukocytosis to 26, and rectal pneumatosis with stranding of the
mesorectum on CT scan.

 
Past Medical History:
Past Medical History:  
 A. fib/atrial flutter on Coumadin  
 Gout on multiple courses of prednisone in the last several  
 months, currently on a taper with 10 mg p.o. daily  
 Diastolic congestive heart failure  
 Chronic kidney disease with baseline creatinine around 2  
 Constipation  
 Past Surgical History:  
 Hysterectomy  

 
Social History:
Very involved daughter who is active in her care. She and her 
mother go out daily. The patient will return to the ___'s 
house to continue to recover.
 
Physical Exam:
General: tolerating a regular diet, some anal pain reported, + 
BM on morning prior to discharge.
VSS
neuro: A&OX3
Cardio/Pulm: no shortness of breath or chest pain
Abd: round, softly distended
___ with minimal edema

 
Pertinent Results:
___ 07:30AM BLOOD WBC-19.1* RBC-3.77* Hgb-11.5 Hct-34.4 
MCV-91 MCH-30.5 MCHC-33.4 RDW-14.4 RDWSD-47.2* Plt ___
___ 08:51PM BLOOD WBC-25.9* RBC-3.84* Hgb-11.8 Hct-34.7 
MCV-90 MCH-30.7 MCHC-34.0 RDW-14.3 RDWSD-46.3 Plt ___
___ 08:51PM BLOOD Neuts-87.2* Lymphs-7.5* Monos-4.3* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-22.58* AbsLymp-1.93 
AbsMono-1.12* AbsEos-0.00* AbsBaso-0.04
___ 07:30AM BLOOD Glucose-146* UreaN-77* Creat-2.3* Na-137 
K-5.0 Cl-95* HCO3-23 AnGap-19*
___ 08:51PM BLOOD Glucose-128* UreaN-86* Creat-2.1* Na-136 
K-4.1 Cl-95* HCO3-22 AnGap-19*
___ 07:30AM BLOOD Calcium-8.3* Phos-4.9* Mg-2.7*
___ 09:00PM BLOOD Lactate-3.9*
 
Brief Hospital Course:
___ was transferred to ___ from ___ with 
findings on abdominal CT concerning for pneumatosis and possible 
perforation with sever constipation. It was degtermined that she 
was not perforated but was severely constipated and she was 
disimpacted by Dr. ___ in the operating room. SHe was 
transferred to the inpatient unit. She did have an elevated 
white blood cell count which went from 25 to 19 wiuth hydration. 
She was monitored closely. Her viatal signs her stable. She 
tolerated a regular diet. She had a loose bowel movement with 
one half bottle of magnesium citrate. she was observed for an 
additional night. ___ baths were preformed for anal pain. On 
___ she had a liquid bowel movement and was tolerating a 
regular diet. Her electrolytes had improved as did her white 
blood cell count after hydration. She was restarted on her home 
dose of Coumadin and will return to the ___ 
clinic. I discussed this with the clinic nurse. Her PCP was also 
informed of her admission and the need to recheck her labs. 
 
Medications on Admission:
Allopurinol 2 tablets p.o. daily  
 Felodipine ER 5 mg tablet extended release 24 hrs 1 tab p.o.  
 daily  
 Hydralazine 50 mg tab 1.5 tabs p.o. twice daily  
 Remeron 7 mg tablet once daily  
 Potassium chloride ER 20 mEq tablet extended release once daily 
 
 p.o.  
 Prednisone taper, 10 mg p.o. daily  
 torosemide 20 mg tablets 4 tablets every morning, 2 tablets 
every  
 afternoon  
 Warfarin 2.5 mg tablets, 1 tablet 6 days per week and 1.5 
tablets  
 one day per week  
 Magnesium tablet p.o. daily  
 multivitamin tablet p.o. daily  
 fish oil capsule p.o. daily  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Moderate 
Do not take more than 3000mg of Tylenol in 24 hours or drink 
alcohol while taking  
2.  Docusate Sodium 100 mg PO BID  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Felodipine 5 mg PO DAILY  
5.  HydrALAZINE 75 mg PO BID  
6.  Mirtazapine 7.5 mg PO QHS  
7.  Multivitamins 1 TAB PO DAILY  
8.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
9.  Potassium Chloride 20 mEq PO DAILY  
10.  PredniSONE 10 mg PO DAILY  
11.  Senna 8.6 mg PO BID:PRN constipation  
12.  Torsemide 80 mg PO QAM  
13.  Torsemide 40 mg PO QPM  
14.  Warfarin 2.5 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Severe Constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient colorectal surgery service 
after a disimpaction in the operating room for constipation. It 
is important that we prevent this from happening again. You 
should continue to take the medication Miralax daily to prevent 
constipation. Please keep yourself well hydrated. Monitor 
yourself for the following abdominal symptoms. You can continue 
___ baths for rectal/anal pain. Do this especially after bowel 
movements. 

Pleas have your INR checked next ___ at the ___ 
___ clinic. 

If you have any of the following symptoms please call the office 
for advice ___:  
 fever greater than 101.5  
 increasing abdominal distension  
 increasing abdominal pain  
 nausea/vomiting  
 inability to tolerate food or liquids  
 prolonged loose stool  
 extended constipation  
 inability to urinate  

You were admitted to the inpatient colorectal surgery service 
after a disimpaction in the operating room for constipation. It 
is important that we prevent this from happening again. You 
should continue to take the medication Miralax daily to prevent 
constipation. Please keep yourself well hydrated. Monitor 
yourself for the following abdominal symptoms. You can continue 
___ baths for rectal/anal pain. Do this especially after bowel 
movements. 

Pleas have your INR checked next ___ at the ___ 
___ clinic. 

If you have any of the following symptoms please call the office 
for advice ___:  
 fever greater than 101.5  
 increasing abdominal distension  
 increasing abdominal pain  
 nausea/vomiting  
 inability to tolerate food or liquids  
 prolonged loose stool  
 extended constipation  
 inability to urinate  

 
Followup Instructions:
___